US04978613
Thiobenzoic acid (1.41 g, 10.2 mmol) and sodium bicarbonate (0.857 g, 10.2 mmol) were stirred in 30 ml of H2O and heated to 50° C. The mixture was filtered through silica gel, and the filtrate was added to cephalothin (1.43 g, 3.4 mmol) in 20 ml of H2O. The reaction mixture was stirred for 20 hours at 50° C. 7-Thiophenylacetamido-3-thiobenzoylmethyl-3-cephem-4-carboxylic acid (0.791 g) was collected by filtration. 50 mg of this material was dissolved in DMF (2 ml). Sodium hydride (4.4 mg. 0.11 mmol) was added, and the mixture was stirred for two hours, filtered, and dried under vacuum. The residue was dissolved in water, refiltered and lyophilized to yield pure 7-thiophenylacetamido-3-thiobenzoylmethyl-3-cephem-4-carboxylate sodium salt.

reactant | Thiobenzoic acid | 10.2 mmol, 1.41 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | sodium bicarbonate | 10.2 mmol, 0.857 g | C([O-])(O)=O.[Na+]
reactant | cephalothin | 3.4 mmol, 1.43 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CC3=CC=CS3)SC1)C(=O)O | C16H16N2O6S2
reactant | Sodium hydride | 0.11 mmol, 4.4 mg | [H-].[Na+]
solvent | H2O | 30 ml | O | H2O
solvent | H2O | 20 ml | O | H2O
product | 7-thiophenylacetamido-3-thiobenzoylmethyl-3-cephem-4-carboxylate sodium salt | [Na+].S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CC(C2=CC=CC=C2)=S)C(=O)[O-])C1=O | InChI=1S/C21H18N2O4S3.Na/c24-16(10-14-7-4-8-29-14)22-17-19(25)23-18(21(26)27)13(11-30-20(17)23)9-15(28)12-5-2-1-3-6-12;/h1-8,17,20H,9-11H2,(H,22,24)(H,26,27);/q;+1/p-1/t17?,20-;/m1./s1
